US07863291B2
Step C: (R)—N-(Oxazolo[4,5-b]pyridin-2-yl)-4H-1′-azaspiro[oxazole-5,3′-bicyclo[2.2.2]octan]-2-amine
A 10 ml vial was charged with (S)-3-(aminomethyl)quinuclidin-3-ol.2HCl salt (8.53 mg, 0.044 mmol), DMF (2 ml), DIEA (7.74 μL, 0.04 mmol) and Cs2CO3(28.9 mg, 0.089 mmol) at room temperature, followed by dimethyl oxazolo[4,5-b]pyridin-2-ylcarbonimidodithioate (10.6 mg, 0.044 mmol). The resulting suspension was stirred at room temperature for 1 hr. LC/MS indicated complete consumption of starting material. The reaction mixture was diluted with MeOH and purified via preparative HPLC to afford the expected product, (R)—N-(oxazolo[4,5-b]pyridin-2-yl)-4H-1′-azaspiro[oxazole-5,3′-bicyclo[2.2.2]octan]-2-amine (13 mg, 0.038 mmol, 86% yield), as a white solid. 1H NMR (400 MHz, Acetone-d6) δ ppm 1.54-1.60 (m, 1H) 1.71-1.77 (m, 2H) 2.16-2.24 (m, 1H) 2.77-2.82 (m, 2H) 2.89 (t, J=7.91 Hz, 4H) 3.13-3.25 (m, 2H) 3.90 (d, J=10.29 Hz, 1H) 4.22 (d, J=10.29 Hz, 1H) 7.13 (dd, J=8.03, 5.02 Hz, 1H) 7.70 (dd, J=7.91, 1.13 Hz, 1H) 8.27 (dd, J=5.14, 1.13 Hz, 1H) 9.11 (br. s., 1H). MS (LC/MS) R.T.=0.443; [M+H]+=300.16.

reactant | (S)-3-(aminomethyl)quinuclidin-3-ol | NC[C@@]1(CN2CCC1CC2)O | C8H16N2O
reactant | DIEA | 0.04 mmol, 7.74 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | Cs2CO3 | 0.089 mmol, 28.9 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | dimethyl oxazolo[4,5-b]pyridin-2-ylcarbonimidodithioate | 0.044 mmol, 10.6 mg | O1C(=NC2=NC=CC=C21)N=C(SC)SC | C9H9N3OS2
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | (R)—N-(oxazolo[4,5-b]pyridin-2-yl)-4H-1′-azaspiro[oxazole-5,3′-bicyclo[2.2.2]octan]-2-amine | 0.038 mmol, 13 mg, 86% yield | O1C(=NC2=NC=CC=C21)NC=2O[C@]1(CN3CCC1CC3)CN2 | C15H17N5O2
